US07897767B2
3-Chloroperoxybenzoic acid (13.3 g of 77% max, 59.4 eq.) was added in portions over a period of 5 minutes to a solution of tert-butyl[3-(2-chloromethyl-1H-imidazo[4,5-c]quinolin-1-yl)propyl]carbamate (8.9 g, 23.7 mmol) in chloroform (200 mL). The reaction mixture was allowed to stir at ambient temperature overnight. Ammonium hydroxide (50 mL) was added and the reaction mixture was stirred vigorously. Para-toluensulfonyl chloride (5.43 g, 28.5 mmol) was added over a period of 5 minutes. The reaction mixture was stirred at ambient temperature for 2 hours; an additional 1 g of para-toluensulfonyl chloride was added and the reaction mixture was stirred for another hour. The reaction mixture was filtered to remove solids. The filtrate was transferred to a separatory funnel and the layers were separated. The organic layer was washed with 1:1 water:saturated aqueous sodium bicarbonate (2×150 mL). The combined aqueous was extracted with dichloromethane (2×150 mL) and ethyl acetate (1×100 mL). The combined organic extracts were concentrated under reduced pressure to provide 13.6 g of crude product as a brown foam. The foam was dissolved in dichloromethane (20 mL). The solution was divided and loaded onto two FLASH 40+M silica cartridges (90 g). The first cartridge was eluted sequentially with 1 L 1:1 ethyl acetate:hexanes, 5% methanol in 1:1 ethyl acetate:hexanes, and 10% methanol in 1:1 ethyl acetate:hexanes. The second cartridge was eluted sequentially with 1 L 1:1 ethyl acetate:hexanes, 7% methanol in 1:1 ethyl acetate:hexanes, and 7% methanol in 1:1 ethyl acetate:hexanes. The fractions containing product were combined and then concentrated under reduced pressure to provide 4.3 g of tert-butyl[3-(4-amino-2-chloromethyl-1H-imidazo[4,5-c]quinolin-1-yl)propyl]carbamate as a light yellow foam.

reactant | 3-Chloroperoxybenzoic acid | 13.3 g, 59.4 eq. | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | tert-butyl[3-(2-chloromethyl-1H-imidazo[4,5-c]quinolin-1-yl)propyl]carbamate | 23.7 mmol, 8.9 g | C(C)(C)(C)OC(NCCCN1C(=NC=2C=NC=3C=CC=CC3C21)CCl)=O | C19H23ClN4O2
reactant | Ammonium hydroxide | 50 mL | [OH-].[NH4+]
reactant | Para-toluensulfonyl chloride | 28.5 mmol, 5.43 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | para-toluensulfonyl chloride | 1 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | chloroform | 200 mL | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | tert-butyl[3-(4-amino-2-chloromethyl-1H-imidazo[4,5-c]quinolin-1-yl)propyl]carbamate | 4.3 g | C(C)(C)(C)OC(NCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCl)=O | C19H24ClN5O2
